US04783562
80 g of 2-bromobenzyl thioether are dissolved in 200 ml of carbon tetrachloride. Chlorine is introduced at 75° C., until the solution is saturated. After the mixture has cooled to 20° C., chlorine is again introduced for 30 minutes. The reaction mixture is then distilled at 0.5 mm. 36 g of 2-bromobenzotrichloride (30% of theory) are obtained at a pass-over temperature of 82° to 88° C./0.5 mm.

reactant | 2-bromobenzyl thioether | 80 g | BrC1=C(CSCC2=C(C=CC=C2)Br)C=CC=C1 | C14H12Br2S
reactant | Chlorine | ClCl | Cl2
reactant | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromobenzotrichloride | 36 g, 30% | BrC1=C(C=CC=C1)C(Cl)(Cl)Cl | C7H4BrCl3
